** sch_path: /foss/designs/PhaseInterpolator/Clock_Gen/tb_6ph_rosc.sch
**.subckt tb_6ph_rosc
x1 v0 v90 vdd vc v180 vss v270 clock_gen
Vdd4 vc GND 0.9
Vdd3 vss GND 0
Vdd1 vdd GND 1.2
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
*.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice




.save v(v0) v(v1) v(v2) v(v3) v(v4) v(v5) v(v90) v(v270) v(v0_) v(v180)

.tran 2p 5n

.control
run
set color0=white
write rosc.raw


*meas tran SKEW0_1 TRIG v(v0) VAL=0.6 RISE=3 TARG v(v1) VAL=0.6 RISE=4
*meas tran SKEW1_2 TRIG v(v1) VAL=0.6 RISE=3 TARG v(v2) VAL=0.6 RISE=4
*meas tran SKEW2_3 TRIG v(v2) VAL=0.6 RISE=3 TARG v(v3) VAL=0.6 RISE=4
*meas tran SKEW3_4 TRIG v(v3) VAL=0.6 RISE=3 TARG v(v4) VAL=0.6 RISE=5
*meas tran SKEW4_5 TRIG v(v4) VAL=0.6 RISE=3 TARG v(v5) VAL=0.6 RISE=4
*meas tran SKEW5_0 TRIG v(v5) VAL=0.6 RISE=3 TARG v(v0) VAL=0.6 RISE=4


*meas tran T0 TRIG v(v0) VAL=0.6 RISE=3 TARG v(v0) VAL=0.6 RISE=4
*meas tran T1 TRIG v(v1) VAL=0.6 RISE=3 TARG v(v1) VAL=0.6 RISE=4
*meas tran T2 TRIG v(v2) VAL=0.6 RISE=3 TARG v(v2) VAL=0.6 RISE=4
*meas tran T3 TRIG v(v3) VAL=0.6 RISE=3 TARG v(v3) VAL=0.6 RISE=4
*meas tran T4 TRIG v(v4) VAL=0.6 RISE=3 TARG v(v4) VAL=0.6 RISE=4
*meas tran T5 TRIG v(v5) VAL=0.6 RISE=3 TARG v(v5) VAL=0.6 RISE=4

*let period_0 = T0
*let period_1 = T1
*let period_2 = T2
*let period_3 = T3
*let period_4 = T4
*let period_5 = T5

*let phase0_1 = ((SKEW0_1 / period_0) * 360) -360
*let phase1_2 = ((SKEW1_2 / period_0) * 360) -360
*let phase2_3 = ((SKEW2_3 / period_0) * 360) -360
*let phase3_4 = ((SKEW3_4 / period_0) * 360) -360
*let phase4_5 = ((SKEW4_5 / period_0) * 360) -360
*let phase5_0 = ((SKEW5_0 / period_0) * 360) -360

*let freq0 = 1/T0
*let freq5 = 1/T5

*meas tran PW0 TRIG v(v0) VAL=0.6 RISE=3 TARG v(v0) VAL=0.6 FALL=4
*meas tran PW1 TRIG v(v1) VAL=0.6 RISE=3 TARG v(v1) VAL=0.6 FALL=4
*meas tran PW2 TRIG v(v2) VAL=0.6 RISE=3 TARG v(v2) VAL=0.6 FALL=4
*meas tran PW3 TRIG v(v3) VAL=0.6 RISE=3 TARG v(v3) VAL=0.6 FALL=4
*meas tran PW4 TRIG v(v4) VAL=0.6 RISE=3 TARG v(v4) VAL=0.6 FALL=4
*meas tran PW5 TRIG v(v5) VAL=0.6 RISE=3 TARG v(v5) VAL=0.6 FALL=4

*let Duty0 = PW0 / period_0
*let Duty1 = PW1 / period_1
*let Duty2 = PW2 / period_2
*let Duty3 = PW3 / period_3
*let Duty4 = PW4 / period_4
*let Duty5 = PW5 / period_5

meas tran SKEW0_90 TRIG v(v0) VAL=0.6 RISE=3 TARG v(v90) VAL=0.6 RISE=4
meas tran SKEW90_180 TRIG v(v90) VAL=0.6 RISE=3 TARG v(v180) VAL=0.6 RISE=3
meas tran SKEW180_270 TRIG v(v180) VAL=0.6 RISE=3 TARG v(v270) VAL=0.6 RISE=3
meas tran SKEW270_0 TRIG v(v270) VAL=0.6 RISE=3 TARG v(v0) VAL=0.6 RISE=3

meas tran T0 TRIG v(v0) VAL=0.6 RISE=3 TARG v(v0) VAL=0.6 RISE=4
meas tran T90 TRIG v(v90) VAL=0.6 RISE=3 TARG v(v90) VAL=0.6 RISE=4
meas tran T180 TRIG v(v180) VAL=0.6 RISE=3 TARG v(v180) VAL=0.6 RISE=4
meas tran T270 TRIG v(v270) VAL=0.6 RISE=3 TARG v(v270) VAL=0.6 RISE=4

let period_0 = T0
let period_90 = T90
let period_180 = T180
let period_270 = T270

let phase0_90 = ((SKEW0_90 / period_0) * 360)
let phase90_180 = ((SKEW90_180 / period_90) * 360)
let phase180_270 = ((SKEW180_270 / period_180) * 360)
let phase270_0 = ((SKEW270_0 / period_270) * 360)

meas tran PW0 TRIG v(v0) VAL=0.6 RISE=3 TARG v(v0) VAL=0.6 FALL=4
meas tran PW90 TRIG v(v90) VAL=0.6 RISE=3 TARG v(v90) VAL=0.6 FALL=4
meas tran PW180 TRIG v(v180) VAL=0.6 RISE=3 TARG v(v180) VAL=0.6 FALL=4
meas tran PW270 TRIG v(v270) VAL=0.6 RISE=3 TARG v(v270) VAL=0.6 FALL=4

let Duty0 = PW0 / period_0
let Duty90 = PW90 / period_90
let Duty180 = PW180 / period_180
let Duty270 = PW270 / period_270

let freq0 = 1/period_0

print phase0_90 phase90_180 phase180_270 phase270_0 Duty0 Duty90 Duty180 Duty270 freq0

.endc


**** end user architecture code
**.ends

* expanding   symbol:  clock_gen.sym # of pins=7
** sym_path: /foss/designs/PhaseInterpolator/Clock_Gen/clock_gen.sym
** sch_path: /foss/designs/PhaseInterpolator/Clock_Gen/clock_gen.sch
.subckt clock_gen PH0 PH90 VDD CTRL PH180 VSS PH270
*.iopin VDD
*.iopin VSS
*.ipin CTRL
*.opin PH0
*.opin PH90
*.opin PH180
*.opin PH270
x1 CTRL v0 v3 v2 v5 v4 v1 VSS VDD 6ph_rosc
x16 VDD v4 v270 v5 VSS PI_clk
x2 VDD v1 v90 v2 VSS PI_clk
x8 VDD net1 v0 VSS inv_PI_d2
x9 VDD net2 v3 VSS inv_PI_d2
x10 VDD v360 net1 VSS inv_PI_d2
x11 VDD v180 net2 VSS inv_PI_d2
x3 VDD PH180 v180 VSS buff_PI_d16
x4 VDD PH90 v90 VSS buff_PI_d16
x5 VDD PH0 v360 VSS buff_PI_d16
x6 VDD PH270 v270 VSS buff_PI_d16
x7 VDD v180 v360 VSS flywheel_clk
x12 VDD v270 v90 VSS flywheel_clk
.ends


* expanding   symbol:  6ph_rosc.sym # of pins=9
** sym_path: /foss/designs/PhaseInterpolator/Clock_Gen/6ph_rosc.sym
** sch_path: /foss/designs/PhaseInterpolator/Clock_Gen/6ph_rosc.sch
.subckt 6ph_rosc CTRL Ph0 Ph3 Ph2 Ph5 Ph4 Ph1 VSS VDD
*.iopin VDD
*.iopin VSS
*.ipin CTRL
*.opin Ph0
*.opin Ph2
*.opin Ph5
*.opin Ph1
*.opin Ph4
*.opin Ph3
x1 VDD net1 net2 CTRL net6 net5 VSS psdiff
x2 VDD net3 net4 CTRL net2 net1 VSS psdiff
x3 VDD net5 net6 CTRL net4 net3 VSS psdiff
x4 CTRL Ph0 Ph3 VDD decap
x5 CTRL Ph2 Ph5 VDD decap
x6 CTRL Ph1 Ph4 VDD decap
x7 VDD Ph1 net2 VSS buff_d8
x8 VDD Ph4 net1 VSS buff_d8
x9 VDD Ph5 net4 VSS buff_d8
x10 VDD Ph2 net3 VSS buff_d8
x11 VDD Ph3 net6 VSS buff_d8
x12 VDD Ph0 net5 VSS buff_d8
x19 VDD Ph2 Ph5 VSS flywheel
x17 VDD Ph0 Ph3 VSS flywheel
x13 VDD Ph4 Ph1 VSS flywheel
.ends


* expanding   symbol:  PI_clk.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Clock_Gen/PI_clk.sym
** sch_path: /foss/designs/PhaseInterpolator/Clock_Gen/PI_clk.sch
.subckt PI_clk VDD PH0 PHOUT PH1 VSS
*.iopin VDD
*.iopin VSS
*.ipin PH0
*.ipin PH1
*.opin PHOUT
x5 VDD net1 PH0 VSS inv_PI_d2
x6 VDD net1 PH1 VSS inv_PI_d2
x7 VDD PHOUT net1 VSS inv_PI_d2
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d2.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d2.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d2.sch
.subckt inv_PI_d2 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI
x1[0] VDD VOUT VIN VSS inv_PI
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/buff_PI_d16.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_PI_d16.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_PI_d16.sch
.subckt buff_PI_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x7 VDD net1 VIN VSS inv_PI_d2
x8 VDD net2 net1 VSS inv_PI_d4
x9 VDD net3 net2 VSS inv_PI_d8
x10 VDD VOUT net3 VSS inv_PI_d16
.ends


* expanding   symbol:  flywheel_clk.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Clock_Gen/flywheel_clk.sym
** sch_path: /foss/designs/PhaseInterpolator/Clock_Gen/flywheel_clk.sch
.subckt flywheel_clk VDD PH1 PH0 VSS
*.iopin VDD
*.iopin VSS
*.iopin PH1
*.iopin PH0
x13 VDD PH1 PH0 VSS inv_PI_d2
x14 VDD PH0 PH1 VSS inv_PI_d2
.ends


* expanding   symbol:  psdiff.sym # of pins=7
** sym_path: /foss/designs/PhaseInterpolator/Clock_Gen/psdiff.sym
** sch_path: /foss/designs/PhaseInterpolator/Clock_Gen/psdiff.sch
.subckt psdiff VDD VOUTDN VOUTDP CTRL CLKN CLKP VSS
*.iopin VSS
*.ipin CLKP
*.ipin CLKN
*.iopin VDD
*.ipin CTRL
*.opin VOUTDN
*.opin VOUTDP
XM1 net1 CLKP VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=30
XM2 net2 CLKN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=30
XM3 net3 CTRL net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=2
XM4 net4 CTRL net2 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=2
XM6 net2 net3 VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=10
XM5 net1 net4 VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=10
XM7 net1 VSS VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=20
XM8 net2 VSS VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=20
x1 VDD VOUTDP net2 VSS buff_d8
x2 VDD VOUTDN net1 VSS buff_d8
.ends


* expanding   symbol:  decap.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Clock_Gen/decap.sym
** sch_path: /foss/designs/PhaseInterpolator/Clock_Gen/decap.sch
.subckt decap CTRL VOUTDN VOUTDP VDD
*.ipin CTRL
*.ipin VDD
*.ipin VOUTDN
*.ipin VOUTDP
XM10 CTRL VOUTDP CTRL VDD sg13_lv_pmos w=1u l=0.13u ng=1 m=32
XM9 CTRL VOUTDN CTRL VDD sg13_lv_pmos w=1u l=0.13u ng=1 m=32
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d8.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d8.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d8.sch
.subckt buff_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x7 VDD net1 VIN VSS inv
x8 VDD net2 net1 VSS inv_d2
x9 VDD net3 net2 VSS inv_d4
x10 VDD VOUT net3 VSS inv_d8
.ends


* expanding   symbol:  flywheel.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Clock_Gen/flywheel.sym
** sch_path: /foss/designs/PhaseInterpolator/Clock_Gen/flywheel.sch
.subckt flywheel VDD PH1 PH0 VSS
*.iopin VDD
*.iopin VSS
*.iopin PH1
*.iopin PH0
x13 VDD PH1 PH0 VSS inv_d2
x14 VDD PH0 PH1 VSS inv_d2
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI.sch
.subckt inv_PI VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=3 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.3u l=0.13u ng=2 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d4.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d4.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d4.sch
.subckt inv_PI_d4 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d2
x1[0] VDD VOUT VIN VSS inv_PI_d2
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d8.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d8.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d8.sch
.subckt inv_PI_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d4
x1[0] VDD VOUT VIN VSS inv_PI_d4
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d16.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d16.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d16.sch
.subckt inv_PI_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d8
x1[0] VDD VOUT VIN VSS inv_PI_d8
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sch
.subckt inv VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sch
.subckt inv_d2 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv
x1[0] VDD VOUT VIN VSS inv
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sch
.subckt inv_d4 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d2
x1[0] VDD VOUT VIN VSS inv_d2
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sch
.subckt inv_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d4
x1[0] VDD VOUT VIN VSS inv_d4
.ends

.GLOBAL GND
.end
